US05594021
N-(4-bromo-3-methyl-5-isoxazolyl)-5-(2-thienyl)thiophene-2-sulfonamide was prepared in the same manner as described in Example 2. Reaction of 2-chlorosulfonyl-5,2'-bithiophene (300 mg, 1.14 mmol) with 5-amino-4-bromo-3-methylisoxazole (183 mg, 1.03 mmol) yielded, after flash chromatography using 10% MeOH/CHCl3, 430 mg (94%) of a pale brown solid, m.p. 210° C.

reactant | 2-chlorosulfonyl-5,2'-bithiophene | 1.14 mmol, 300 mg | ClS(=O)(=O)C=1SC(=CC1)C=1SC=CC1 | C8H5ClO2S3
reactant | 5-amino-4-bromo-3-methylisoxazole | 1.03 mmol, 183 mg | NC1=C(C(=NO1)C)Br | C4H5BrN2O
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | N-(4-bromo-3-methyl-5-isoxazolyl)-5-(2-thienyl)thiophene-2-sulfonamide | BrC=1C(=NOC1NS(=O)(=O)C=1SC(=CC1)C=1SC=CC1)C | C12H9BrN2O3S3
